US05719141
d) 3(R)-Benzyl-5(S)-[5-benzyloxy-1(S)-tert-butoxycarbonylamino-3,3-dimethyl-pentyl]-2-oxotetrahydrofuran
A solution of 1.76 g of 5(S)-[5-benzyloxy-1(S)-tert-butoxycarbonylamino-3,3-dimethylpentyl]-2-oxo-tetrahydrofuran in 30 ml of tetrahydrofuran is added to a mixture of 9.14 ml of a 1M lithiumbis(trimethylsilyl)amide solution in tetrahydrofuran and 30 ml of tetrahydrofuran at -78° C. under argon and the mixture is stirred for 30 min. 0.63 ml of benzyl bromide in 30 ml of tetrahydrofuran are then added dropwise. After the mixture has been stirred at -78° C. for 3.5 h, the reaction is quenched by addition of 1.6 ml of propionic acid and the mixture is diluted with diethyl ether. The organic phase is washed with a 10% aqueous citric acid solution and a 1M sodium bicarbonate solution, dried over sodium sulfate and concentrated. Purification over silica gel (mobile phase D) gives the title compound: Rf (D)=0.23; FAB-MS: (M+H)+ =496.

reactant | 5(S)-[5-benzyloxy-1(S)-tert-butoxycarbonylamino-3,3-dimethylpentyl]-2-oxo-tetrahydrofuran | 1.76 g | C(C1=CC=CC=C1)OCCC(C[C@H](NC(=O)OC(C)(C)C)[C@@H]1CCC(O1)=O)(C)C | C23H35NO5
reactant | lithiumbis(trimethylsilyl)amide | 1M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | benzyl bromide | 0.63 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3(R)-Benzyl-5(S)-[5-benzyloxy-1(S)-tert-butoxycarbonylamino-3,3-dimethyl-pentyl]-2-oxotetrahydrofuran | C(C1=CC=CC=C1)[C@H]1C(O[C@@H](C1)[C@H](CC(CCOCC1=CC=CC=C1)(C)C)NC(=O)OC(C)(C)C)=O | C30H41NO5
